US08030334B2
To a solution of N-((5-bromopyridin-3-yl)methyl)ethanesulfonamide (1.8 g, 5.55 mmol) and triethylamine (1.683 g, 16.64 mmol) in DCM (20 mL) at 0° C. is added ethanesulfonyl chloride (1.426 g, 11.09 mmol), and the mixture is stirred at 0° C. for 1 h. Silica gel (10 g) is added and the mixture is concentrated in vacuo. The residue is purified by silica chromatography eluting with 0 to 2% MeOH-DCM to give N-((5-bromopyridin-3-yl)methyl)-N-(ethylsulfonyl)ethanesulfonamide. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.14 (t, J=7.3 Hz, 6H), 3.48 (q, J=7.3 Hz, 4H), 4.92 (s, 2H), 8.0 (t, J=2.1 Hz, 1H), 8.59 (d, J=2.0 Hz, 1H), 8.72 (d, J=2.3 Hz, 1H).

reactant | N-((5-bromopyridin-3-yl)methyl)ethanesulfonamide | 5.55 mmol, 1.8 g | BrC=1C=C(C=NC1)CNS(=O)(=O)CC | C8H11BrN2O2S
reactant | triethylamine | 16.64 mmol, 1.683 g | C(C)N(CC)CC | C6H15N
reactant | ethanesulfonyl chloride | 11.09 mmol, 1.426 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-((5-bromopyridin-3-yl)methyl)-N-(ethylsulfonyl)ethanesulfonamide | BrC=1C=C(C=NC1)CN(S(=O)(=O)CC)S(=O)(=O)CC | C10H15BrN2O4S2
